US05380721
2-(4-Methoxybenzoyl)benzoic acid
A mixture of 57 g (0.4 mole) of phthalic anhydride and 43 mL (0.4 mole) of anisole in 400 mL of benzene was treated with 105 g (0.8 mole) of aluminum chloride at 5°. The reaction was kept for five days at 5° poured into 600 mL of 2N aqueous HCl and ice and filtered. The residue was triturated in aqueous sodium carbonate and filtered repeatedly until the solid no longer contained product. The sodium carbonate extracts were combined, washed with ether, and acidified with 2N aqueous HCl. The product was extracted into ether, dried over sodium sulfate and stripped. It was recrystallized from toluene to provide 80% yield of product, mp 145-147.

reactant | phthalic anhydride | 0.4 mole, 57 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | anisole | 0.4 mole, 43 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | aluminum chloride | 0.8 mole, 105 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | 2N, 600 mL | Cl | ClH
solvent | benzene | 400 mL | C1=CC=CC=C1 | C6H6
product | 2-(4-Methoxybenzoyl)benzoic acid | 80% yield | COC1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1 | C15H12O4
